US08633189B2
To a solution of 4-bromo-2-cyclopentyl-phenol (2.0 g, 8.29 mmol) and Cs2CO3 (3.24 g, 9.95 mmol) in DMF (13.0 mL) was added benzyl bromide (1.6 g, 1.09 mL, 9.12 mmol) dropwise. The reaction was stirred at room temperature under inert atmosphere for 2 h. The reaction was quenched with water and the aqueous layer was extracted with dichloromethane. The organic layer was dried over Na2SO4 and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexane) provided 1-benzyloxy-4-bromo-2-cyclopentyl-benzene (1.8 g, 64% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.43-7.40 (m, 4H), 7.35-7.28 (m, 3H), 6.99 (d, J=9.4 Hz, 1H), 5.12 (s, 2H), 3.28-3.24 (m, 1H), 1.94-1.92 (m, 2H), 1.70-1.69 (m, 2H), 1.61-1.52 (m, 4H).

reactant | 4-bromo-2-cyclopentyl-phenol | 8.29 mmol, 2.0 g | BrC1=CC(=C(C=C1)O)C1CCCC1 | C11H13BrO
reactant | Cs2CO3 | 9.95 mmol, 3.24 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 9.12 mmol, 1.09 mL, 1.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 13.0 mL | CN(C)C=O | C3H7NO
product | 1-benzyloxy-4-bromo-2-cyclopentyl-benzene | 1.8 g, 64% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C1CCCC1 | C18H19BrO
